US06288082B1
4-(1H-Benzoimidazol-5-ylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 150, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile, 159.8 mg (1.2 mmol) of 5-aminobenzimdazole and 115.6 mg (1 mmol) of pyridine hydrochloride in 10 mL of 2-ethoxyethanol was refluxed for 1 hr. The work up gave 233.6 mg (67.7%) of the product as a brown solid, m.p. 230°0 C. (dce.), mass (electrospray, m/e): M+H 345.9. HRCIMS: calcd 346.1304 for C19H15N5O2 (M+), obsd 346.1325.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 5-aminobenzimdazole | 1.2 mmol, 159.8 mg | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(1H-Benzoimidazol-5-ylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | N1C=NC2=C1C=CC(=C2)NC2=C(C=NC1=CC(=C(C=C21)OC)OC)C#N | C19H15N5O2
